Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / 
erythromycin base
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with history of CAD s/p PCI to the LAD 
(___), atrial fibrillation s/p PPM, diabetes, hypertension, 
hyperlipidemia, and recent diagnosis of testicular cancer 
presenting with chest pain.  

Patient notes sudden onset chest pain at 5:30 ___. He notes this 
pain is similar to prior pain at time of MI in ___, 
described as crushing, burning substernal chest pain (like a 
"fist 
into the chest"), radiating to left arm. He took 325 mg ASA 
prior to presentation to ___. He reported to the nurse at 
___ that the pain was since ___, but reported to the MD 
at ___ that it was since ~2 hours PTA to ___ (time of 
presentation ~ 9 pm), progressively worsening. EKG there 
reportedly in NSR, narrow complex, without ST elevations. Chest 
X ray reportedly unremarkable. 

Patient was given 4 of morphine, and 0.3 Nitroglycerin SL with 
some improvement in pain. The plan at ___ was to admit for 
observation with telemetry and trending with cardiac troponins, 
however patient requested transfer to ___ as he had received 
previous care here. 
 
Of note, patient was recently diagnosed with testicular cancer 
at ___ with recent surgery ___ with urology at ___. His Plavix 
was held for 10 days prior to the surgery and then restarted one 
day after. 

In addition, ___ and ___ notes that patient has 
had history of drug seeking behavior, with frequent requests for 
benzodiazepines and opiates, pain contract in place, and note to 
"not administer any narcotics in ER, due to hx ED visits that 
are triggered by drug seeking behavior." 

In the ED initial vitals were:  
Temp. 98.4, HR 85, BP 137/86, RR 18, 97% RA  
EKG: Sinus rhythm, HR 56.  
Labs/studies notable for:  
trop < 0.01  
WBC 12, Hg 9.9, platelets 237  
Patient was given:  
IV Lorazepam .5 mg  
IV DRIP Nitroglycerin (0.35-3.5 mcg/kg/min ordered)  
IV Morphine Sulfate 2 mg  
IV Morphine Sulfate 2 mg  
HYDROmorphone (Dilaudid) .25 mg  
 
Vitals on transfer:  
HR 62, BP 122/54, RR 14, SpO2 97% RA  

On the floor, patient notes notes ongoing ___ substernal chest 
pain with radiation to the left arm. Patient states that since 
his PCI in ___ he has not had any more chest pain until 
now, states patient (however, per chart review was admitted in 
___ for chest pain). He was requesting to eat, and states 
that his pain medication of choice is IV dilaudid. We explained 
that if concerned for cardiac cause would not want to mask his 
chest pain and if there were any potential intervention would 
want to keep him NPO. His chest pain improved to ___. 

Patient notes he is very anxious over receiving diagnosis of 
aggressive testicular cancer on ___. He notes he is 
scheduled for a pan-scan on ___ to evaluate for metastasis. 
He notes severe anxiety over this with support from his son and 
wife. Patient notes he would be ok with SW consult for coping.  

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Diabetes  
- Hypertension  
- Dyslipidemia  
2. CARDIAC HISTORY  
- Coronary artery disease s/p DES to LAD in ___  
- Atrial fibrillation s/p PPM  
3. OTHER PAST MEDICAL HISTORY  
- CLL  
- Stroke in ___  
 
Social History:
___
Family History:
- No cancer or stroke
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION/DISCHARGE:
======================================
VS: 98.3-98.8 ___ RA
GENERAL: WDWN male in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP flat  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. ___ SEM LSB. No thrills, lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

 
Pertinent Results:
LAB RESULTS ON ADMISSION:
=========================
___ 02:43AM BLOOD WBC-12.0* RBC-3.86* Hgb-9.9* Hct-31.4* 
MCV-81* MCH-25.6* MCHC-31.5* RDW-13.9 RDWSD-40.6 Plt ___
___ 02:43AM BLOOD Neuts-52.8 ___ Monos-6.9 Eos-4.4 
Baso-0.5 Im ___ AbsNeut-6.33* AbsLymp-4.16* AbsMono-0.82* 
AbsEos-0.53 AbsBaso-0.06
___ 02:43AM BLOOD Glucose-122* UreaN-10 Creat-0.9 Na-135 
K-4.2 Cl-98 HCO3-25 AnGap-16
___ 09:25AM BLOOD Calcium-8.5 Phos-4.4 Mg-2.1

PERTINENT INTERVAL LABS:
=========================
___ 02:43AM BLOOD cTropnT-<0.01
___ 09:25AM BLOOD CK-MB-2 cTropnT-<0.01

___ CARDIAC PERFUSION PHARM
==================================
SUMMARY FROM THE EXERCISE LAB:
For pharmacologic stress dipyridamole was infused intravenously 
for
approximately 4 minutes at a dose of 0.142 
milligram/kilogram/min. 1 to 2
minutes after the cessation of infusion, the stress dose of the 
radiotracer was
injected.
 
FINDINGS:  Calculated end-diastolic volume is 133 cc, however 
visual observation
suggests that the left ventricular cavity size is normal.
 
There is a small fixed defect within the inferior wall that is 
consistent with attenuation and does not appear on the 
attenuation correction images..
Otherwise, rest and stress perfusion images reveal uniform 
tracer uptake
throughout the left ventricular myocardium.
 
Gated images reveal normal wall motion.
 
The calculated left ventricular ejection fraction is 65%.
 
IMPRESSION:  Normal myocardial perfusion study
 
Brief Hospital Course:
___ year old male with history of CAD s/p PCI to the LAD, atrial 
fibrillation s/p PPM, diabetes, hypertension, hyperlipidemia and 
recent diagnosis of testicular cancer presenting with chest pain 
with no ischemic ST changes, negative troponins x 3, and  normal 
myocardial perfusion study, likely in setting of anxiety.   

# Atypical chest pain: 
Patient with known CAD and recent PCI to LAD in ___ with recent 
holding of clopidogrel in setting of orchiectomy (although > 3 
months post stent). Patient notes abrupt onset of chest pain 
initially reported as similar in character to prior MI but later 
reported that he thought this was most likely secondary to 
anxiety and was much improved with benzodiazepines. EKG without 
ischemic ST changes, atrially paced. Troponin I negative at 
___ x 1, troponin T negative x 2 here. Patient was initially 
placed on nitro gtt and continued on home rivaroxaban given 
history of known coronary artery disease. Given history of CAD, 
patient underwent p-MIBI with dipyridamole stress. No anginal 
type symptoms or significant ST segment changes. Nuclear report- 
normal myocardial perfusion study with calculated LVEF 65%. 
Suspect that chest pain may be secondary to anxiety given recent 
diagnosis of testicular cancer.  

TRANSITIONAL ISSUES:
====================
- Troponins negative x 3, nuclear stress test without evidence 
of ischemia
[] Chest pain most likely related to anxiety, please consider 
social work for coping as an outpatient
- No changes were made to patient's home medications
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Acyclovir 400 mg PO Q8H 
3. Docusate Sodium 100 mg PO BID:PRN constipation 
4. Senna 8.6 mg PO DAILY:PRN constipation 
5. Losartan Potassium 50 mg PO DAILY 
6. TraZODone 300 mg PO QHS 
7. Multivitamins 1 TAB PO DAILY 
8. Furosemide 20 mg PO DAILY 
9. Metoprolol Tartrate 12.5 mg PO BID 
10. Atorvastatin 80 mg PO QPM 
11. MetFORMIN (Glucophage) 1000 mg PO BID 
12. Levothyroxine Sodium 25 mcg PO DAILY 
13. melatonin 2.5 mg oral QHS:PRN 
14. ibrutinib 420  oral DAILY 
15. Gabapentin 300 mg PO TID 
16. Acetaminophen 500 mg PO Q8H 
17. Magnesium Oxide 400 mg PO BID 
18. ZIPRASidone Hydrochloride 40 mg PO BID 
19. FLUoxetine 20 mg PO DAILY 
20. Pantoprazole 40 mg PO Q24H 
21. Cyanocobalamin 1000 mcg PO DAILY 
22. Neomycin-Polymyxin-Bacitracin 1 Appl TP TID 
23. Rivaroxaban 10 mg PO DAILY 
24. Clopidogrel 75 mg PO DAILY 
25. Divalproex (EXTended Release) 500 mg PO BID 
26. Divalproex (EXTended Release) 250 mg PO QPM 
27. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN Pain 
- Moderate 
28. Milk of Magnesia 30 mL PO QHS:PRN constipation 
29. Glargine 56 Units Breakfast
Glargine 56 Units Dinner

 
Discharge Medications:
1.  Glargine 56 Units Breakfast
Glargine 56 Units Dinner 
2.  Acetaminophen 500 mg PO Q8H  
3.  Acyclovir 400 mg PO Q8H  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 80 mg PO QPM  
6.  Clopidogrel 75 mg PO DAILY  
7.  Cyanocobalamin 1000 mcg PO DAILY  
8.  Divalproex (EXTended Release) 500 mg PO BID  
9.  Divalproex (EXTended Release) 250 mg PO QPM  
10.  Docusate Sodium 100 mg PO BID:PRN constipation  
11.  FLUoxetine 20 mg PO DAILY  
12.  Furosemide 20 mg PO DAILY  
13.  Gabapentin 300 mg PO TID  
14.  HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN Pain 
- Moderate  
15.  ibrutinib 420  oral DAILY  
16.  Levothyroxine Sodium 25 mcg PO DAILY  
17.  Losartan Potassium 50 mg PO DAILY  
18.  Magnesium Oxide 400 mg PO BID  
19.  melatonin 2.5 mg oral QHS:PRN  
20.  MetFORMIN (Glucophage) 1000 mg PO BID  
21.  Metoprolol Tartrate 12.5 mg PO BID  
22.  Milk of Magnesia 30 mL PO QHS:PRN constipation  
23.  Multivitamins 1 TAB PO DAILY  
24.  Neomycin-Polymyxin-Bacitracin 1 Appl TP TID  
25.  Pantoprazole 40 mg PO Q24H  
26.  Rivaroxaban 10 mg PO DAILY  
27.  Senna 8.6 mg PO DAILY:PRN constipation  
28.  ZIPRASidone Hydrochloride 40 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Atypical chest pain
Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___!

You came to us after sudden onset of chest pain at rest, which 
initially reminded you of your prior heart attack.

While you were here with us, we performed multiple EKGs and sent 
out blood tests to look for a heart attack. Good news- this did 
not demonstrate anything that was concerning for a heart attack. 
Due to your history of a stent in ___, we ordered a nuclear 
stress test, which DID NOT demonstrate any heart damage!

As you had been under significant stress recently in the setting 
of new diagnosis of testicular cancer, we would like to 
encourage you to talk to social work as an outpatient. 

Please take care, we wish you the best!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___